data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_347375_1,[C:1]([N:3]([N:2]([N:4]([H:8])[H:9])[C:6](=[O:7])[H:12])[N:5]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([N:3]([N:5]([H:10])[H:11])[O:7]/[C:6](=[N:2]/[N:4]([H:8])[H:9])[H:12])([H:13])([H:14])[H:15],47.11960249999137
MR_78346_0,[C:1]1([C:2]([H:11])([H:12])[H:13])([H:9])[C:3](=[C:5]([H:14])[H:15])[C:4]1([C:6]([O:7][H:8])([H:16])[H:17])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[C:5]([H:14])[H:15])[O:7][H:8])([C:4](=[C:6]([H:16])[H:17])[H:10])[H:9],69.99762499997843
MR_98561_2,[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])([C:5]([H:13])([H:20])[H:21])/[N:10]=[C:8](\[C:2]([C:6]([H:22])([H:23])[H:24])([C:7]([H:25])([H:26])[H:27])[H:12])[O:9][H:11]>>[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])([C:5]([H:13])([H:20])[H:21])[N:10]([C:8]([C:2]([C:6]([H:22])([H:23])[H:24])([C:7]([H:25])([H:26])[H:27])[H:12])=[O:9])[H:11],32.445515000015206
MR_592967_0,[C:1](/[N:7]=[C:4](/[N:2]([C:3]([O:5][H:9])=[O:8])[H:11])[O:6][H:10])([H:12])([H:13])[H:14]>>[C:1]([N:7]([C:3]([O:5][H:9])=[O:8])/[C:4](=[N:2]\[H:11])[O:6][H:10])([H:12])([H:13])[H:14],48.24721999996228
MR_552836_2,[C:1]([C:3]([N:5]([H:11])[H:12])=[C:6]([H:16])[H:17])([C:4]([C:2]([H:13])([H:14])[H:15])=[C:7]([H:18])[H:19])([O:8][H:9])[H:10]>>[C:1]([C:4]([C:2]([H:13])([H:14])[H:15])([C:3]([N:5]([H:11])[H:12])=[C:6]([H:16])[H:17])[C:7]([H:9])([H:18])[H:19])(=[O:8])[H:10],63.5243349999854
MR_645809_1,[C:1]1(/[C:5]([N:6]([H:11])[H:12])=[C:7](/[C:4]([H:17])([H:18])[H:19])[H:13])([H:9])[C:2]([C:3]([H:14])([H:15])[H:16])([H:10])[O:8]1>>[C@@:1]1(/[C:5]([N:6]([H:11])[H:12])=[C:7](/[C:4]([H:17])([H:18])[H:19])[H:13])([H:9])[C@@:2]([C:3]([H:14])([H:15])[H:16])([H:10])[O:8]1,58.48048999998596
MR_191924_0,[C:1](/[C:2](=[N:5]/[C:3]1([H:8])[C:4]([H:13])=[N:6]1)[O:7][H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](/[N:5]=[C:3](\[N:6]=[C:4]([H:12])[H:13])[H:8])=[O:7])([H:9])([H:10])[H:11],45.05951999998487
MR_368329_1,[C:1]([C:2]([N:5]([H:12])[H:13])([N:6]([H:14])[H:15])[H:9])([C:3]([H:16])([H:17])[H:18])([O:7][N:4]([H:10])[H:11])[H:8]>>[C:1]([C:2]([N:5]([H:12])[H:13])([N:6]([H:14])[H:15])[O:7][N:4]([H:10])[H:11])([C:3]([H:16])([H:17])[H:18])([H:8])[H:9],72.09849500002463
MR_569469_0,[C:1]([C:2]([C:3]([O:7][H:10])=[O:8])([H:15])[H:16])([N:4]([H:11])[H:12])([N:5]([H:13])[H:14])[O:6][H:9]>>[C:1](\[C:2]([C:3]([O:6][H:9])([O:7][H:10])[O:8][H:14])([H:15])[H:16])([N:4]([H:11])[H:12])=[N:5]/[H:13],32.129254999957624
MR_19156_1,[C:1]1([H:9])([H:10])[C:3](=[O:6])[C:4]([C:2]([H:11])([H:12])[H:13])([O:7][H:8])[O:5]1>>[C:1]([C:3]([C:4]([C:2]([H:11])([H:12])[H:13])=[O:7])=[O:6])([O:5][H:8])([H:9])[H:10],33.62897999998779
MR_669091_0,[C:1](\[O:2][O:3][H:6])(=[N:5]\[O:4][H:7])[H:8]>>[C@:1]1([O:3][H:6])([H:8])[O:2][N:5]1[O:4][H:7],39.284637500012
MR_51005_0,[C:1](\[N:2]([H:7])[H:8])([O:4][C:3](=[O:6])[H:10])=[N:5]\[H:9]>>[C:1](\[N:2]([H:7])[H:8])(=[N:5]\[H:9])[O:6][C:3](=[O:4])[H:10],26.376335000036303
MR_256326_1,[C:1]([C:2]([N:3]([H:9])[H:10])=[O:6])([N:4]([H:11])[H:12])([C:5](=[O:7])[H:13])[H:8]>>[C:1](=[C:2](\[N:3]([H:9])[H:10])[O:6][C:5](=[O:7])[H:13])(\[N:4]([H:11])[H:12])[H:8],52.83800999999983
MR_571082_0,[c:1]1([N:3]([H:9])[H:10])[c:2]([O:5][H:8])[n:7][n:6][o:4]1>>[C:1]12([N:3]([H:9])[H:10])[C:2]([O:5][H:8])=[N:7][N:6]1[O:4]2,60.1534050000069
MR_64720_1,[C:1]([C:3]([H:17])([H:18])[H:19])([C:5]1([O:7][C:2]([H:12])([H:13])[H:14])[C:4](=[C:6]([H:15])[H:16])[N:8]1[H:9])([H:10])[H:11]>>[C:1]([C:3]([H:17])([H:18])[H:19])(/[C:5]([C:4](=[C:6]([H:15])[H:16])[O:7][C:2]([H:12])([H:13])[H:14])=[N:8]/[H:9])([H:10])[H:11],63.09575250003306
MR_590405_0,[C:1]([O:4][N:3]([N:2]([O:5][H:7])[O:6][H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([O:4][N:2]([N:3]([O:6][H:8])[H:9])[O:5][H:7])([H:10])([H:11])[H:12],64.31875000001284
MR_481056_0,[C:1](=[C:3](/[N:2]([H:8])[H:9])[H:10])(\[C:4](=[C:5]([H:12])[H:13])[H:11])[O:6][H:7]>>[C:1]1([O:6][H:7])=[C:4]([H:11])[C:5]([H:12])([H:13])[C:3]1([N:2]([H:8])[H:9])[H:10],40.843974999998665
MR_98513_1,[C:1](/[C:3](=[C:5](/[C:2]([H:14])([H:15])[H:16])[H:13])[O:7][H:9])([O:6][C:4](=[O:8])[H:10])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:3]([C:5]([C:2]([H:14])([H:15])[H:16])([C:4](=[O:8])[H:10])[H:13])([O:7][H:9])[O:6]1,61.7221549999698
MR_457349_1,[C:1](/[C:2]([N:3]([H:9])[H:10])=[N:7]\[C:5](=[C:4](\[O:6][H:8])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:2]1([N:3]([H:9])[H:10])[C:4]([O:6][H:8])([H:11])[C:5]([H:12])=[N:7]1)([H:13])([H:14])[H:15],39.17419750000548
MR_278915_0,[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:3]([N:4]([H:11])[H:12])=[C:5](/[O:7][H:9])[H:13])([O:6][H:8])[H:10]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:3](/[N:4]([H:11])[H:12])[C:5]([O:7][H:9])([H:10])[H:13])[O:6][H:8],66.29537499998037
MR_129893_0,[C:1]([C:3]([C:2]([C:4](=[O:7])[H:8])=[O:5])=[O:6])([H:9])([H:10])[H:11]>>[C:1]([C:3]([C@@:4]1([H:8])[C:2]([O:5])[O:7]1)=[O:6])([H:9])([H:10])[H:11],42.280950000008914
